US07166598B2
To a solution of 5-(2-hydroxyethyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (0.49 g) in dichloromethane (20 ml) was added dropwise thionyl chloride (0.39 ml). The mixture was stirred at 40° C. for 1.5 hours. After the mixture was evaporated under reduced pressure, the residue was triturated with diisopropyl ether. The resulting powder was collected by filtration, washed with diisopropyl ether and dried in vacuo to give 5-(2-chloroethyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride (0.44 g).

reactant | 5-(2-hydroxyethyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 0.49 g | OCCN1CC2=C(CC1)SC=C2 | C9H13NOS
reactant | thionyl chloride | 0.39 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-(2-chloroethyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride | 0.44 g | Cl.ClCCN1CC2=C(CC1)SC=C2 | InChI=1S/C9H12ClNS.ClH/c10-3-5-11-4-1-9-8(7-11)2-6-12-9;/h2,6H,1,3-5,7H2;1H
